US09227957B2
Preparation of 3-(4,6-bis(2,2,2-trifluoroethoxy)pyrimidin-2-yl)-1-methyl-1-(5-(trifluoromethyl)thiophen-2-yl)urea (2)
To a solution of N-methyl-5-(trifluoromethyl)thiophen-2-amine in CH2Cl2 (2 mL) was added 2-isocyanato-4,6-bis(2,2,2-trifluoroethoxy)pyrimidine (1.6 mL, 1.0 M in THF) (prepared as described in U.S. Pat. No. 8,013,154, the contents of which were incorporated herein above by reference in their entirety). This reaction was stirred at ambient temperature overnight. TLC indicated the reaction was complete. The solvent was removed under reduced pressure and the residue was purified using normal phase chromatography which afforded product (471 mg, 56% over three steps) as an off-white solid, mp 99-101° C.: Rf=0.26 (30% EtOAc, hex); 1H NMR (DMSO-d6) 10.34 (s, 1H), 7.48 (d, 1H, J=3.3 Hz), 6.78 (d, 1H, J=4.3 Hz), 6.28 (s, 1H), 5.02 (q, 4H, J=17.8, 8.9 Hz), 3.49 (s, 3H); ESIMS m/z 497 [(M-1)+].

reactant | N-methyl-5-(trifluoromethyl)thiophen-2-amine | CNC=1SC(=CC1)C(F)(F)F | C6H6F3NS
reactant | 2-isocyanato-4,6-bis(2,2,2-trifluoroethoxy)pyrimidine | 1.0 M, 1.6 mL | N(=C=O)C1=NC(=CC(=N1)OCC(F)(F)F)OCC(F)(F)F | C9H5F6N3O3
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-(4,6-bis(2,2,2-trifluoroethoxy)pyrimidin-2-yl)-1-methyl-1-(5-(trifluoromethyl)thiophen-2-yl)urea | FC(COC1=NC(=NC(=C1)OCC(F)(F)F)NC(N(C=1SC(=CC1)C(F)(F)F)C)=O)(F)F | C15H11F9N4O3S
